US05962458
A mixture of 2-chloro-4-hydroxymethylpyridine (180 mg, 1.25 mmol), thionyl chloride (0.2 ml) in toluene (10 ml) was stirred at ambient temperature for 1 hour. The volatiles were removed by evaporation to give 2-chloro-4-chloromethylpyridine hydrochloride (180 mg, 0.9 mmol). A mixture of 7-hydroxy-6-methoxy-4-phenoxyquinazoline (268 mg, 1 mmol), (prepared as described for the starting material in Example 13), potassium carbonate (680 mg, 5 mmol) and DMF (10 ml) was added to this crude product and the mixture was heated at 90° C. for 1 hour. The mixture was allowed to cool, diluted with water and extracted with ethyl acetate (3×70 ml). The extracts were combined, washed with water (x3) and brine, dried (MgSO4) and the solvent removed by evaporation to give 7-((2-chloro-4-pyridyl)methoxy)-6-methoxy-4-phenoxyquinazoline (260 mg, 66%) as a solid.

reactant | 2-chloro-4-hydroxymethylpyridine | 1.25 mmol, 180 mg | ClC1=NC=CC(=C1)CO | C6H6ClNO
reactant | thionyl chloride | 0.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-4-chloromethylpyridine hydrochloride | 0.9 mmol, 180 mg | Cl.ClC1=NC=CC(=C1)CCl | InChI=1S/C6H5Cl2N.ClH/c7-4-5-1-2-9-6(8)3-5;/h1-3H,4H2;1H
